US05965756
Ethylene/1-Octene Copolymeriztion
A stirred 3.8 liter reactor was charged with 1440 g of lsopar-E™ mixed alkanes solvent (available from Exxon Chemicals Inc.) and 126 g of 1-octene comonomer. Hydrogen was added as a molecular weight control agent by differential pressure expansion from a 75 mL addition tank at 25 psid (2070 kPa). The reactor was heated to the polymerization temperature of 130° C. and saturated with ethylene at 450 psig (3.1 MPa). Approximately 2.0 μmol each of catalyst and trispentafluorophenylborane cocatalyst as 0.005 M solutions in toluene were premixed in a drybox, transferred to a catalyst addition tank and injected into the reactor over approximately a four minute period. The polymerization conditions were maintained for 10 minutes with ethylene on demand. The resulting solution was removed from the reactor, and a hindered phenol antioxidant (Irganox™ 1010 from Ciba Geigy Corporation) was added to the resulting solution. Polymers formed were dried in a vacuum oven set at 120° C. for about 20 hours. Results are contained in Table 2.

reactant | 1-octene | 126 g | C=CCCCCCC | C8H16
reactant | Hydrogen | [H][H] | H2
reactant | ethylene | C=C | C2H4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethylene/1-Octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
